*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:01:45 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AND2X6"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AND2X6 Y B A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 4.89972e-16
*|P (Y X 0 1.7000 0.8550)
*|I (Mmn2@1:d Mmn2@1 d X 0 1.1100 0.4300)
*|I (Mmp2@1:d Mmp2@1 d X 0 1.1250 1.1350)
C1 Mmp2@1:d VSS 2.66242e-16
C2 Mmn2@1:d VSS 2.0965e-16
C3 Y VSS 1.40792e-17
Rk1 Mmn2@1:d Y 0.184423 $W=0.1
Rk2 Mmp2@1:d Y 0.027397 $W=0.1
*
*|NET B 2.95396e-16
*|P (B X 0 0.5250 0.8550)
*|I (Mmn0@1:g Mmn0@1 g X 0 0.4075 0.4550)
*|I (Mmn0:g Mmn0 g X 0 0.6125 0.4550)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.4075 1.1750)
*|S (B:7 0.4450 0.8150)
*|S (B:8 0.4450 0.8350)
*|S (B:9 0.5255 0.8350)
C4 Mmp1@1:g VSS 1.69172e-16
C5 Mmn0:g VSS 3.86425e-17
C6 Mmn0@1:g VSS 5.58559e-17
C7 B VSS 3.17256e-17
Rl3 Mmp1@1:g Mmn0@1:g 74.232826 $W=0.039
Rl4 Mmp1@1:g Mmn0:g 76.156609 $W=0.039
Rk5 B:7 B:8 0.005637 $W=0.225
Rk6 B:9 B 0.005637 $W=0.225
Rk7 B:9 B:8 0.041918 $W=0.12
Rk8 B:7 Mmp1@1:g 45.000000 $W=0.12
*
*|NET A 4.91224e-16
*|P (A X 0 0.1000 0.6650)
*|I (Mmn1@1:g Mmn1@1 g X 0 0.3025 0.4550)
*|I (Mmn1:g Mmn1 g X 0 0.7625 0.4550)
*|I (Mmp0@1:g Mmp0@1 g X 0 0.2025 1.1750)
C8 Mmp0@1:g VSS 3.69681e-16
C9 Mmn1:g VSS 5.05344e-17
C10 Mmn1@1:g VSS 5.69205e-17
C11 A VSS 1.4088e-17
Rl9 Mmn1@1:g Mmp0@1:g 66.553917 $W=0.039
Rl10 Mmp0@1:g Mmn1:g 29.945055 $W=0.039
Rk11 Mmp0@1:g A 0.026290 $W=0.1
*
*|NET 7 0
*|I (Mmn1@1:d Mmn1@1 d X 0 0.3550 0.4550)
*|I (Mmn0@1:s Mmn0@1 s X 0 0.3550 0.4550)
Rmw12 Mmn0@1:s Mmn1@1:d 0.001000 $W=1
*
*|NET net61 7.78825e-16
*|I (Mmn0@1:d Mmn0@1 d X 0 0.5100 0.4550)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.0075 0.4300)
*|I (Mmp0@1:d Mmp0@1 d X 0 0.3050 1.1750)
*|S (net61:17 0.9500 0.7200)
C12 Mmp0@1:d VSS 2.28777e-16
C13 Mmn2@1:g VSS 3.70571e-16
C14 Mmn0@1:d VSS 9.0921e-17
C15 net61:17 VSS 8.85551e-17
Rk13 net61:17 Mmn0@1:d 38.021511 $W=0.0825
Rk14 net61:17 Mmn2@1:g 0.170183 $W=0.08
Rk15 Mmp0@1:d net61:17 0.405266 $W=0.08
*
*|NET 8 3.01608e-18
*|I (Mmn0:s Mmn0 s X 0 0.6875 0.4550)
*|I (Mmn1:d Mmn1 d X 0 0.6875 0.4550)
C16 Mmn0:s VSS 3.01608e-18
Rmw16 Mmn1:d Mmn0:s 0.001000 $W=1
*
*Instance Section
*
Mmn1@1	Mmn1@1:d	Mmn1@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=1.665e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmn0@1	Mmn0@1:d	Mmn0@1:g	Mmn0@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=1.56e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmn0	Mmn0@1:d	Mmn0:g	Mmn0:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0273P	PD=0.84U	PS=0.73U
+ fw=2.6e-07 sa=4.5e-07 sb=1.355e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0273P	AS=0.059P	PD=0.73U	PS=1.02U
+ fw=2.6e-07 sa=6e-07 sb=1.205e-06 sca=11.3041 scb=0.010759 scc=0.000493236
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.31U
+ AD=0.04836P	AS=0.05148P	PD=0.932U	PS=0.956U	M=5
+ fw=3.1e-07 sa=7.3129e-07 sb=9.6e-07 sca=10.4852 scb=0.00950193 scc=0.000416321
Mmp0@1	Mmp0@1:d	Mmp0@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0625P	PD=1.1U	PS=1.16U	M=2
+ fw=3.9e-07 sa=1.4e-07 sb=1.78e-06 sca=29.498 scb=0.0332632 scc=0.00250913
Mmp1@1	Mmp0@1:d	Mmp1@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=3.45e-07 sb=1.575e-06 sca=19.4642 scb=0.0185905 scc=0.00114451
Mmp2@1	Mmp2@1:d	Mmn2@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.47U
+ AD=0.07332P	AS=0.07424P	PD=1.252U	PS=1.26U	M=5
+ fw=4.7e-07 sa=8.13617e-07 sb=9.6e-07 sca=26.9787 scb=0.0178954 scc=0.0027966
.ENDS
.END
