*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:02:58 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AND4X1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AND4X1 B Y C D A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 3.14394e-16
*|P (B X 0 0.5000 1.0450)
*|I (Mmn1:g Mmn1 g X 0 0.6725 0.4575)
*|I (Mmp1:g Mmp1 g X 0 0.6725 1.2375)
*|S (B:2 0.6725 0.6650)
*|S (B:3 0.5600 0.6650)
C1 Mmp1:g VSS 5.7526e-17
C2 Mmn1:g VSS 3.54822e-17
C3 B:2 VSS 3.89797e-17
C4 B:3 VSS 1.12026e-16
C5 B VSS 7.03804e-17
Rl1 B:2 B:3 54.899536 $W=0.094
Rl2 B:2 Mmn1:g 47.791046 $W=0.039
Rl3 Mmp1:g B:2 174.714127 $W=0.039
Rk4 B:3 B 0.244986 $W=0.09
*
*|NET Y 1.48155e-16
*|P (Y X 0 1.3000 1.2350)
*|I (Mmn4:d Mmn4 d X 0 1.1750 0.4000)
*|I (Mmp4:d Mmp4 d X 0 1.1750 1.1500)
*|S (Y:2 1.1850 1.1500)
C6 Mmp4:d VSS 5.07342e-17
C7 Mmn4:d VSS 7.61503e-17
C8 Y VSS 2.12708e-17
Rk5 Y Y:2 0.039624 $W=0.185
Rk6 Y:2 Mmn4:d 38.000725 $W=0.1
Rk7 Mmp4:d Y:2 20.666666 $W=0.1
*
*|NET C 2.43343e-16
*|P (C X 0 0.3000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.4075 0.4575)
*|I (Mmp2:g Mmp2 g X 0 0.4075 1.2375)
*|S (C:2 0.3800 0.6600)
C9 Mmp2:g VSS 6.06037e-17
C10 Mmn2:g VSS 3.45934e-17
C11 C:2 VSS 1.06683e-16
C12 C VSS 4.14634e-17
Rl8 C:2 Mmn2:g 37.230232 $W=0.039
Rl9 Mmp2:g C:2 167.999466 $W=0.039
Rk10 C:2 C 45.126419 $W=0.074
*
*|NET D 2.04114e-16
*|P (D X 0 0.1000 0.6650)
*|I (Mmn3:g Mmn3 g X 0 0.2475 0.4575)
*|I (Mmp3:g Mmp3 g X 0 0.2025 1.2375)
*|S (D:2 0.1600 0.6650)
C13 Mmp3:g VSS 4.8431e-17
C14 Mmn3:g VSS 3.10519e-17
C15 D:2 VSS 1.03172e-16
C16 D VSS 2.14592e-17
Rl11 Mmn3:g D:2 44.775066 $W=0.039
Rl12 D:2 Mmp3:g 162.636475 $W=0.039
Rk13 D:2 D 45.024170 $W=0.155
*
*|NET A 2.542e-16
*|P (A X 0 0.9000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.8225 0.4575)
*|I (Mmp0:g Mmp0 g X 0 0.8775 1.2375)
*|S (A:2 0.8500 0.7100)
C17 Mmp0:g VSS 6.08709e-17
C18 Mmn0:g VSS 4.38366e-17
C19 A:2 VSS 1.02485e-16
C20 A VSS 4.70073e-17
Rl14 A:2 Mmn0:g 56.868130 $W=0.039
Rl15 Mmp0:g A:2 150.000000 $W=0.039
Rk16 A:2 A 45.077648 $W=0.1095
*
*|NET net132 3.16837e-18
*|I (Mmn3:s Mmn3 s X 0 0.3275 0.4575)
*|I (Mmn2:d Mmn2 d X 0 0.3275 0.4575)
C21 Mmn3:s VSS 3.16837e-18
Rmw17 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET net116 5.54187e-16
*|I (Mmn3:d Mmn3 d X 0 0.1550 0.4575)
*|I (Mmn4:g Mmn4 g X 0 1.0825 0.4000)
*|I (Mmp3:d Mmp3 d X 0 0.3050 1.2375)
*|I (Mmp1:d Mmp1 d X 0 0.7750 1.2375)
*|I (Mmp4:g Mmp4 g X 0 1.0825 1.1500)
*|S (net116:2 1.0825 0.6300)
*|S (net116:3 1.0300 0.6300)
*|S (net116:5 0.6800 0.5200)
*|S (net116:7 0.6800 1.2550)
C22 Mmp4:g VSS 6.22043e-17
C23 Mmp1:d VSS 2.12612e-17
C24 Mmp3:d VSS 4.14745e-17
C25 Mmn4:g VSS 3.67017e-17
C26 Mmn3:d VSS 5.7844e-17
C27 net116:7 VSS 8.27255e-17
C28 net116:5 VSS 1.33777e-16
C29 net116:3 VSS 1.18199e-16
Rl18 net116:2 net116:3 45.516560 $W=0.094
Rl19 net116:2 Mmn4:g 34.329510 $W=0.039
Rl20 Mmp4:g net116:2 120.867966 $W=0.039
Rk21 net116:3 net116:5 0.307144 $W=0.0775
Rk22 net116:5 net116:7 0.504260 $W=0.09
Rk23 net116:5 Mmn3:d 75.424126 $W=0.06
Rk24 net116:7 Mmp3:d 62.272121 $W=0.08
Rk25 net116:7 Mmp1:d 62.069359 $W=0.1
*
*|NET net128 6.54738e-18
*|I (Mmn2:s Mmn2 s X 0 0.5400 0.4575)
*|I (Mmn1:d Mmn1 d X 0 0.5400 0.4575)
C30 Mmn2:s VSS 6.54738e-18
Rmw26 Mmn1:d Mmn2:s 0.001000 $W=1
*
*|NET net124 2.75199e-18
*|I (Mmn1:s Mmn1 s X 0 0.7475 0.4575)
*|I (Mmn0:d Mmn0 d X 0 0.7475 0.4575)
C31 Mmn1:s VSS 2.75199e-18
Rmw27 Mmn0:d Mmn1:s 0.001000 $W=1
*
*Instance Section
*
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.01667P	PD=0.57U	PS=0.52U
+ fw=1.45e-07 sa=1.4e-07 sb=9.75e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01667P	AS=0.0319P	PD=0.52U	PS=0.73U
+ fw=1.45e-07 sa=3e-07 sb=8.15e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0319P	AS=0.01522P	PD=0.73U	PS=0.5U
+ fw=1.45e-07 sa=5.65e-07 sb=5.5e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01522P	AS=0.04727P	PD=0.5U	PS=0.95U
+ fw=1.45e-07 sa=7.15e-07 sb=4e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.04728P	PD=0.8U	PS=0.95U
+ fw=2.6e-07 sa=6.05673e-07 sb=1.4e-07 sca=8.97712 scb=0.00732387 scc=0.000196032
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.02e-06 sca=24.6667 scb=0.0279468 scc=0.00158007
Mmp2	Mmp3:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0815P	PD=0.75U	PS=1.44U
+ fw=2.15e-07 sa=3.45e-07 sb=8.15e-07 sca=14.6329 scb=0.0132741 scc=0.000215448
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0815P	PD=0.75U	PS=1.44U
+ fw=2.15e-07 sa=6.1e-07 sb=5.5e-07 sca=12.5692 scb=0.0096429 scc=0.000174148
Mmp0	Mmp1:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0519P	PD=0.75U	PS=1.1U
+ fw=2.15e-07 sa=8.15e-07 sb=3.45e-07 sca=13.1799 scb=0.0106657 scc=0.000178932
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0519P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=6.07179e-07 sb=1.4e-07 sca=24.4649 scb=0.024645 scc=0.00179971
.ENDS
.END
