*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:03:08 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AND4X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AND4X2 B Y C D A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 2.62505e-16
*|P (B X 0 0.7000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 0.6775 0.4825)
*|I (Mmp1:g Mmp1 g X 0 0.6775 1.2275)
*|S (B:2 0.7050 0.6650)
C1 Mmp1:g VSS 5.49735e-17
C2 Mmn1:g VSS 2.79181e-17
C3 B:2 VSS 4.60993e-17
C4 B VSS 1.33514e-16
Rl1 B:2 Mmn1:g 29.537926 $W=0.039
Rl2 Mmp1:g B:2 162.230240 $W=0.039
Rk3 B B:2 45.000000 $W=0.08
*
*|NET Y 2.08729e-16
*|P (Y X 0 1.5000 0.6650)
*|I (Mmn4:d Mmn4 d X 0 1.3350 0.4250)
*|I (Mmp4:d Mmp4 d X 0 1.3350 1.1400)
*|S (Y:1 1.4300 0.6650)
C5 Mmp4:d VSS 8.41134e-17
C6 Mmn4:d VSS 5.23223e-17
C7 Y:1 VSS 5.68304e-17
C8 Y VSS 1.54635e-17
Rk4 Y:1 Y 0.019820 $W=0.13
Rk5 Y:1 Mmn4:d 75.271011 $W=0.09
Rk6 Y:1 Mmp4:d 21.081219 $W=0.0915
*
*|NET C 3.01488e-16
*|P (C X 0 0.5000 1.0450)
*|I (Mmn2:g Mmn2 g X 0 0.4825 0.4825)
*|I (Mmp2:g Mmp2 g X 0 0.4825 1.2275)
*|S (C:2 0.5100 0.6700)
C9 Mmp2:g VSS 6.26801e-17
C10 Mmn2:g VSS 4.67995e-17
C11 C:2 VSS 1.25621e-16
C12 C VSS 6.63874e-17
Rl7 C:2 Mmn2:g 31.461004 $W=0.039
Rl8 Mmp2:g C:2 160.307159 $W=0.039
Rk9 C C:2 45.224174 $W=0.1
*
*|NET D 2.34933e-16
*|P (D X 0 0.3000 0.8650)
*|I (Mmn3:g Mmn3 g X 0 0.3775 0.4825)
*|I (Mmp3:g Mmp3 g X 0 0.2725 1.2275)
*|S (D:2 0.3000 0.6900)
C13 Mmp3:g VSS 4.3058e-17
C14 Mmn3:g VSS 4.30629e-17
C15 D:2 VSS 9.4414e-17
C16 D VSS 5.43985e-17
Rl10 Mmn3:g D:2 44.207958 $W=0.039
Rl11 D:2 Mmp3:g 147.871979 $W=0.039
Rk12 D D:2 45.089535 $W=0.122
*
*|NET A 2.39954e-16
*|P (A X 0 1.1000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.9975 0.4825)
*|I (Mmp0:g Mmp0 g X 0 0.9975 1.2275)
*|S (A:2 1.0300 0.8350)
C17 Mmp0:g VSS 4.25072e-17
C18 Mmn0:g VSS 4.10545e-17
C19 A:2 VSS 1.10634e-16
C20 A VSS 4.57586e-17
Rl13 A:2 Mmn0:g 91.482628 $W=0.039
Rl14 Mmp0:g A:2 93.405708 $W=0.039
Rk15 A A:2 45.021309 $W=0.157
*
*|NET net132 2.92448e-18
*|I (Mmn3:s Mmn3 s X 0 0.4300 0.4825)
*|I (Mmn2:d Mmn2 d X 0 0.4300 0.4825)
C21 Mmn3:s VSS 2.92448e-18
Rmw16 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET net100 5.44744e-16
*|I (Mmn3:d Mmn3 d X 0 0.2850 0.4825)
*|I (Mmn4:g Mmn4 g X 0 1.2325 0.4250)
*|I (Mmp3:d Mmp3 d X 0 0.3775 1.2275)
*|I (Mmp1:d Mmp1 d X 0 0.8375 1.2275)
*|S (net100:7 0.8700 0.5450)
*|S (net100:10 0.7800 1.2700)
C22 Mmp1:d VSS 9.82933e-17
C23 Mmp3:d VSS 3.83881e-17
C24 Mmn4:g VSS 2.27593e-16
C25 Mmn3:d VSS 4.8121e-17
C26 net100:7 VSS 1.32349e-16
Rk17 net100:10 net100:7 0.557149 $W=0.09
Rk18 net100:7 Mmn3:d 75.472382 $W=0.09
Rk19 net100:7 Mmn4:g 45.337296 $W=0.08
Rk20 net100:10 Mmp3:d 62.271896 $W=0.09
Rk21 net100:10 Mmp1:d 62.000000 $W=0.09
*
*|NET net124 5.97886e-18
*|I (Mmn2:s Mmn2 s X 0 0.5800 0.4825)
*|I (Mmn1:d Mmn1 d X 0 0.5800 0.4825)
C27 Mmn2:s VSS 5.97886e-18
Rmw22 Mmn1:d Mmn2:s 0.001000 $W=1
*
*|NET net120 9.55244e-18
*|I (Mmn1:s Mmn1 s X 0 0.8375 0.4825)
*|I (Mmn0:d Mmn0 d X 0 0.8375 0.4825)
C28 Mmn1:s VSS 9.55244e-18
Rmw23 Mmn0:d Mmn1:s 0.001000 $W=1
*
*Instance Section
*
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0087P	PD=0.57U	PS=0.41U
+ fw=1.45e-07 sa=1.4e-07 sb=1.25e-06 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.02175P	PD=0.41U	PS=0.59U
+ fw=1.45e-07 sa=2.45e-07 sb=1.145e-06 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02175P	AS=0.03988P	PD=0.59U	PS=0.84U
+ fw=1.45e-07 sa=4.4e-07 sb=9.5e-07 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03988P	AS=0.04365P	PD=0.84U	PS=0.9U
+ fw=1.45e-07 sa=7.6e-07 sb=6.3e-07 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04653P	PD=0.84U	PS=0.9U	M=2
+ fw=2.6e-07 sa=6.16827e-07 sb=3.95e-07 sca=9.89531 scb=0.00874901 scc=0.000299334
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03548P	AS=0.04465P	PD=0.76U	PS=1.36U
+ fw=2.15e-07 sa=1e-07 sb=1.355e-06 sca=19.3616 scb=0.0212916 scc=0.000644055
Mmp2	Mmp3:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03548P	AS=0.0554P	PD=0.76U	PS=1.46U
+ fw=2.15e-07 sa=3.1e-07 sb=1.145e-06 sca=13.6785 scb=0.0116931 scc=0.000214399
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05913P	AS=0.0554P	PD=0.98U	PS=1.46U
+ fw=2.15e-07 sa=5.05e-07 sb=9.5e-07 sca=12.115 scb=0.00975563 scc=0.000203878
Mmp0	Mmp1:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05913P	AS=0.05835P	PD=0.98U	PS=1.16U
+ fw=2.15e-07 sa=8.25e-07 sb=6.3e-07 sca=11.62 scb=0.00944645 scc=0.000203609
Mmp4	Mmp4:d	Mmn4:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06622P	PD=1.1U	PS=1.16U	M=2
+ fw=3.9e-07 sa=6.29231e-07 sb=3.95e-07 sca=21.3165 scb=0.0178846 scc=0.00184501
.ENDS
.END
